US04381401
Preparation of N-(4-Methylphenyl)-1,2-ethanediamine
A mixture of 4-methylaniline hydrochloride (15.0 g, 0.10 mole), 2-oxazolidinone (8.7 g, 0.10 mole) and 40 ml of 2-(2-methoxyethoxy)ethanol was heated in an oil bath to 170° C. for four hours. On cooling to room temperature, a solid formed. Workup as described in Examples 1 and 8, followed by distillation at 110° C. to 120° C. (1.5 mm Hg) gave a 76 percent yield of the material as a clear liquid which slowly solidified on standing at ambient temperatures to a low-melting solid.

reactant | 4-methylaniline hydrochloride | 0.10 mole, 15.0 g | Cl.CC1=CC=C(N)C=C1
reactant | 2-oxazolidinone | 0.10 mole, 8.7 g | O1C(NCC1)=O | C3H5NO2
solvent | 2-(2-methoxyethoxy)ethanol | 40 ml | COCCOCCO | C5H12O3
product | N-(4-Methylphenyl)-1,2-ethanediamine | 76 percent yield | CC1=CC=C(C=C1)NCCN | C9H14N2
